US04753934
(c) 4-Amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamic acid morpholide
20 g (0.058 mol) of 4-amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamic acid (mixture of isomers A and B in the ratio 1:1.5) were dissolved in 700 ml of dry chloroform. 5.93 g (0.058 mol) of triethylamine were added while cooling with ice and stirring, and the mixture was cooled to -10° C. and combined with 6.35 g (0.058 mol) of ethyl chloroformate. After the addition had ended, 25.5 g (0.29 mol) of morpholine were added while further stirring and cooling. The resulting mixture was stirred for 4 hours more at room temperature and then extracted three times with water, and the organic phase was dried over sodium sulfate and concentrated to dryness in vacuo. The residue was chromatographed on a silica gel column (silica gel: substance=10:1, eluant: chloroform/ethyl acetate=1:1). The eluates containing substance were combined and evaporated to dryness in vacuo. Colorless crystals were obtained, melting point 140°-144° C., which contained the cis/trans isomer mixture in a proportion of 3:2.

reactant | 4-amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamic acid | 0.058 mol, 20 g | NC1=C(C=C(C(=CC(=O)O)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C15H10Cl3NO2
reactant | triethylamine | 0.058 mol, 5.93 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.058 mol, 6.35 g | ClC(=O)OCC | C3H5ClO2
reactant | morpholine | 0.29 mol, 25.5 g | N1CCOCC1 | C4H9NO
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-β-(4-chlorophenyl)-3,5-dichloro-cinnamic acid morpholide | NC1=C(C=C(C(=CC(=O)N2CCOCC2)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C19H17Cl3N2O2
